US06756378B2
A stirred mixture of ethyl 4-[4-benzyloxy-1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-3-methoxybenzoate (1.189 g, 2.449 mmol) and 5% Pd-C (240 mg) in EtOH (10 mL) was hydrogenated overnight at room temp. The mixture was filtered to remove the catalyst and the filtrate was concentrated in vacuo to give ethyl 4-[1-(tert-butoxycarbonyl)-4-hydroxy-2-pyrrolidinyl]methoxy-3-methoxybenzoate (735.3 mg, 76%) as a pale yellow oil. To a stirred cold (minus 78° C.) solution of DAST (0.491 mL, 3.718 mmol) in CH2Cl2 (7.4 mL) was added dropwise a solution of this compound in CH2Cl2 (2 mL), and the resulting mixture was stirred overnight. The mixture was quenched with water and extracted with CHCl3. The extract was washed with brine and dried over Na2SO4. The solvent was removed under a reduced pressure and the residue was chromatographed on silica-gel with n-hexane:EtOAc (3:1, v/v) as eluent to afford 418.7 mg (57%) ethyl 4-[1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinyl]methoxy-3-methoxybenzoate as an oil. 1H-NMR (400 MHz, CDCl3) δ1:39 (t, J=7.3 Hz, 3H), 1.49 (s, 9H), 2.16 (br m, 1H), 2.58 (dd, J=15.6, 19.0 Hz, 1H), 3.60-3.75 (m, 2H), 3.91 (s, 3H), 3.97 (t, J=9.3 Hz, 1H), 4.35 (q, J=7.3 Hz, 2H), 4.33-4.53 (m, 2H), 5.25 (d, J=52.7 Hz, 1H), 7.04 (dd, J=7.8, 56.2 Hz, 1H), 7.55 (s, 1H), 7.65 (br s, 1H); MS (FAB) m/z 398 (M++1).

reactant | ethyl 4-[4-benzyloxy-1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-3-methoxybenzoate | 2.449 mmol, 1.189 g | C(C1=CC=CC=C1)OC1CC(N(C1)C(=O)OC(C)(C)C)COC1=C(C=C(C(=O)OCC)C=C1)OC | C27H35NO7
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd-C | 240 mg | [Pd] | Pd
product | ethyl 4-[1-(tert-butoxycarbonyl)-4-hydroxy-2-pyrrolidinyl]methoxy-3-methoxybenzoate | 735.3 mg, 76% | C(C)(C)(C)OC(=O)N1C(CC(C1)O)COC1=C(C=C(C(=O)OCC)C=C1)OC | C20H29NO7
